US04505912
n-Butyl 2-(3-dimethylamino-propyl)-5-(4-bromophenylamino)-2H-1,2,3-triazole-4-carboxylate hydrochloride
A mixture consisting of 8.5 gm (0.025 mol) of n-butyl 1-(4-bromophenyl)-5-amino-1H-1,2,3-triazole-4-carboxylate, 100 ml of absolute dimethylformamide and 9.1 gm (0.075 mol) of 1-chloro-3-(N,N-dimethylamino)-propane was reacted and worked up as in Example 1. 1.5. gm of the desired compound were obtained, corresponding to 13% of theory, with a melting point of 158° C.

reactant | n-butyl 1-(4-bromophenyl)-5-amino-1H-1,2,3-triazole-4-carboxylate | 0.025 mol, 8.5 gm | BrC1=CC=C(C=C1)N1N=NC(=C1N)C(=O)OCCCC | C13H15BrN4O2
reactant | 1-chloro-3-(N,N-dimethylamino)-propane | 0.075 mol, 9.1 gm | ClCCCN(C)C | C5H12ClN
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | n-Butyl 2-(3-dimethylamino-propyl)-5-(4-bromophenylamino)-2H-1,2,3-triazole-4-carboxylate hydrochloride | Cl.CN(CCCN1N=C(C(=N1)C(=O)OCCCC)NC1=CC=C(C=C1)Br)C | InChI=1S/C18H26BrN5O2.ClH/c1-4-5-13-26-18(25)16-17(20-15-9-7-14(19)8-10-15)22-24(21-16)12-6-11-23(2)3;/h7-10H,4-6,11-13H2,1-3H3,(H,20,22);1H
